US04124533
Asymmetric hydrogenation of α-benzamido-4-hydroxy-3-methoxy-cinnamic acid
Assay of the resulting solution shows an optical purity of 56.4% corresponding to a 78/22 L/D mixture of the sodium salt of N-benzoyl-3-(4-hydroxy-3-methoxyphenyl)-alanine.

reactant | sodium | [Na] | Na
reactant | N-benzoyl-3-(4-hydroxy-3-methoxyphenyl)-alanine | C(C1=CC=CC=C1)(=O)N[C@@H](CC1=CC(=C(C=C1)O)OC)C(=O)O | C17H17NO5
product | α-benzamido-4-hydroxy-3-methoxy-cinnamic acid | C(C1=CC=CC=C1)(=O)NC(C(=O)O)=CC1=CC(=C(C=C1)O)OC | C17H15NO5
